datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(CC)[NH][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(CC)[NH]2.C[NH:10][H] 21=20;20,10=10"
"CC[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C)[O]CC.[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C)[O]CC 10=20;20,21=21"
"[OH:10]C(C)C(C)C([H])C(O)[C:20](OC)=[OH+:21]>>[OH:21][C:20]1(OC)C(O)C([H])C(C)C(C)[OH+:10]1 10=20;20,21=21"
"[Na][O:21]CC.[C:20](=[O:10])(OCC)OCCCCCC>>[Na][O+:21]([C:20]([O-:10])(OCC)OCCCCCC)CC 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"C[C:20]([O:10]C)([Cl:21])CCCCCC>>C[C:20](=[O+:10]C)CCCCCC.[Cl-:21] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])CCCCCC)CC>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)CC.[Cl-:21] 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21][H])CCCCCC)[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1[H])CCCCCC)[H].[O-:21][H] 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)CC)[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)CC)CCCCCC 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])C)[H])[H]>>C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)C)[H])[O-:10])[H] 21=20;20,10=10"
"[O-:21][C:20]1([H])C([H])C(C)C(C)C([H])[O+:10]1([K])>>[O:10]([K])C([H])C(C)C(C)C([H])[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][NH+:10](C(C)C([H])[NH]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])[NH][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][S:10][H].C[O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21]C)([O]C8=CC=CC=C8)[O]C 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)C.[O-:21][H]>>C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])CCCCCC)C 21=20;20,10=10"
"CCCCCC[NH:10][H].C1CC(=O)N(C1=O)O[C:20](=[O:21])CC>>CCCCCC[NH+:10]([C:20]([O-:21])(ON1C(=O)CCC1=O)CC)[H] 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C([H])[CH](C)[NH]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1)[H]>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[O-:10]C([H])C(C)C(C)C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C(C)C(C)C([H])[O:10]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21][H])([NH]CC)[NH]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[H][NH+:21]=[C:20]([NH]CC)[NH]CC 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)C)[H]>>CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)C)[O-:10])[H] 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C)[NH]2.C[NH:10][H] 21=20;20,10=10"
"[H][O:10]C(CC)C(C)C(C)[O][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C)[O]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[O]C(CC)C(C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(CC)C(C)[O]2.CC[NH:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(CC)[NH][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]CC)[O]C(C7=CC=CC=C7)C(C)[O]1 10=20;20,21=21"
"[H][NH:10][H].[H][NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]CC.[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21][H])([NH]C8=CC=CC=C8)[NH]CC 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)C.[O-:21][H]>>CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])CCCCCC)C 21=20;20,10=10"
"CCCCCCN([C:20]([O-:10])(OCCCCCC)[O:21][H])CC>>CCCCCCN([C:20](=[O:10])OCCCCCC)CC.[O-:21][H] 10=20;20,21=21"
